US06414008B1
f) 3-Methyl-2-[2-(4-cyanophenyl)ethyl]imidazo[4,5-b]pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide
A solution of 2.0 g (6.5 mmol) of 3-methyl-2-[2-(4-cyanophenyl)ethyl]imidazo[4,5-b]pyridine-6-carboxylic acid in 100 ml dichloromethane was mixed with 20 ml thionyl chloride and refluxed for 2 hours. After the liquid components had been distilled. off, the crude product was taken up twice more in dichloromethane and the solvent was distilled off each time. The crude acid chloride thus obtained (2 g) was suspended in 100 ml of tetrahydrofuran and mixed with 1.2 g (6.5 mmol) of N-(2-ethoxycarbonylethyl)aniline. Then within 5 minutes 0.73 g (7.2 mmol) of triethylamine were added dropwise. After 1 hour's stirring, the solvent was distilled off in vacuo, the residue was taken up in ethyl acetate, the organic phase was washed with water and dried with sodium sulfate. After distillation of the solvent and flash chromatography (silica gel; dichloromethane to dichloromethane/ethanol=49:1), the desired compound was isolated as a brownish oil.

reactant | 3-methyl-2-[2-(4-cyanophenyl)ethyl]imidazo[4,5-b]pyridine-6-carboxylic acid | 6.5 mmol, 2.0 g | CN1C(=NC=2C1=NC=C(C2)C(=O)O)CCC2=CC=C(C=C2)C#N | C17H14N4O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-ethoxycarbonylethyl)aniline | 6.5 mmol, 1.2 g | C(C)OC(=O)CCNC1=CC=CC=C1 | C11H15NO2
reactant | triethylamine | 7.2 mmol, 0.73 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Methyl-2-[2-(4-cyanophenyl)ethyl]imidazo[4,5-b]pyridine-6-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide | C1(=CC=CC=C1)N(C(=O)C=1C=C2C(=NC1)N(C(=N2)CCC2=CC=C(C=C2)C#N)C)CCC(=O)OCC | C28H27N5O3
